US20010021718A1
2-{[(5-{(1R)-4-Cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,2,4-oxadiazol-3-yl)carbonyl]amino}acetic acid
A solution of (3R)-6-cyclohexyl-3-[3-(ethoxycarbonyl)-1,2,4-oxadiazol-5-yl]hexanoic acid (Preparation 4) (527 mg, 1.56 mmol) in ethanol (20 ml) was treated with triethylamine (508 mg, 5.02 mmol) and glycine t-butyl ester hydrochloride (743 mg, 4.43 mmol) and the resulting solution was heated at 80° C. under a nitrogen atmosphere for 30 hours. The solvent was removed under reduced pressure and the residue was dissolved in hydrochloric acid (1M, 20 ml) then extracted with ethyl acetate (×2). The combined organic layers were dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with dichloromethane: ethyl acetate (1:1) then dichloromethane: methanol (19:1). This residue (430 mg, 1.02 mmol) was dissolved in dichloromethane (10 ml), cooled to 0° C. and treated sequentially with N-methylmorpholine (130 μl, 1.20 mmol) and isobutyl chloroformate (150 μl, 1.20 mmol). This mixture was stirred at 0° C. under a nitrogen atmosphere for 1 hour, then treated with O-(trimethylsilyl)hydroxylamine (160 μl, 1.30 mmol). The mixture was stirred for 17 hours being allowed to warm to room temperature over this time. The mixture was diluted with dichloromethane, washed with aqueous citric acid solution (10% w/v), dried over anhydrous magnesium sulphate, filtered and the solvent removed under reduced pressure. The residue was dissolved in dichloromethane (10 ml), treated with trifluoroacetic acid (10 ml) and the solution was stirred for 2.5 hours at room temperature. The solvent was removed under reduced pressure and the residue azeotroped from toluene (×2). The residue was purified by HPLCb to afford the title compound as a white solid (350 mg).

reactant | (3R)-6-cyclohexyl-3-[3-(ethoxycarbonyl)-1,2,4-oxadiazol-5-yl]hexanoic acid | 1.56 mmol, 527 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)OCC | C17H26N2O5
reactant | triethylamine | 5.02 mmol, 508 mg | C(C)N(CC)CC | C6H15N
reactant | glycine t-butyl ester hydrochloride | 4.43 mmol, 743 mg | Cl.C(C)(C)(C)OC(CN)=O
reactant | N-methylmorpholine | 1.20 mmol, 130 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 1.20 mmol, 150 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | O-(trimethylsilyl)hydroxylamine | 1.30 mmol, 160 μl | C[Si](ON)(C)C | C3H11NOSi
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-{[(5-{(1R)-4-Cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,2,4-oxadiazol-3-yl)carbonyl]amino}acetic acid | 350 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)C(=O)NCC(=O)O | C17H26N4O6
